US07001897B2
To a solution of ((1S)-1-hydroxymethyl-2-methylpropyl)carbamic acid t-butyl ester (3.00 g, 14.8 mmol) (obtained as described in Reference Example 61(1)) in tetrahydrofuran (150 ml) were added diphenylphosphoryl azide (4.78 ml, 22.2 mmol), triphenylphosphine (5.82 g, 22.2 mmol) and a 40% solution of diethylazodicarboxylate in toluene (9.67 g, 22.2 mmol) in an ice bath under an atmosphere of nitrogen, and the mixture was stirred for 2 hours under the same conditions. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (9:1) as the eluant to afford ((1S)-1-azidomethyl-2-methylpropyl)carbamic acid t-butyl ester (3.26 g, yield 90%) as a colorless oil.

reactant | ((1S)-1-hydroxymethyl-2-methylpropyl)carbamic acid t-butyl ester | 14.8 mmol, 3.00 g | C(C)(C)(C)OC(N[C@@H](C(C)C)CO)=O | C10H21NO3
reactant | diphenylphosphoryl azide | 22.2 mmol, 4.78 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triphenylphosphine | 22.2 mmol, 5.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 22.2 mmol, 9.67 g | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ((1S)-1-azidomethyl-2-methylpropyl)carbamic acid t-butyl ester | 3.26 g, yield 90% | C(C)(C)(C)OC(N[C@@H](C(C)C)CN=[N+]=[N-])=O | C10H20N4O2
